US04804665
8-Benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]-decane-3-thion-1-one
To a solution of 8-benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione (2.9 g) in toluene (30 ml) was added a Lawesson reagent ([2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphethane-2,4-disulfide]) (2.38 g), and the mixture was heated for 3 hours under reflux. The solvent was then evaporated off under reduced pressure, and the residual oil was dissolved in ethyl acetate (50 ml), which was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated off, and the residual oil was subjected to a silica gel column chromatography [eluent; methanol:dichloromethane=1.50 (V/V)]. The earlier eluate fraction and the later eluate fraction were separated. The solvent for the later eluate fraction was evaporated off and the residual solid was recrystallized from ethyl ether to obtain 2.1 g of a pale yellow solid, m.p. 89° to 90° C.

reactant | 8-benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione | 2.9 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC)=O)CC1 | C17H20N2O5
reactant | Lawesson reagent | 2.38 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]-decane-3-thion-1-one | 2.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC)=S)CC1 | C17H20N2O4S
